data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
917,991,[CH3:1][O:2][C:3]#[C:4][Cl:5].[CH3:6][NH:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[NH+:13][C-:14]([C:15]([CH3:16])=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([C:11]#[N:12])[NH:13][C:14]1([C:15]([CH3:16])=[O:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,24.242248775553584,-50.59631018686171
3110,3501,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[c-:9]1[nH+:10][c:11]([CH3:12])[o:13][c:14]1=[O:15]>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[C:9]2([C:7]([O:6][CH3:5])=[O:8])[NH:10][C:11]1([CH3:12])[O:13][C:14]2=[O:15],water,298.15,29.609324429927845,-0.990234769246715
2731,3036,[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1.[CH3:23][NH:24][C:25](=[O:26])[CH:27]=[N+:28]([CH3:29])[C-:30]([C:31]([CH3:32])=[O:33])[C:34]([CH3:35])=[O:36]>>[CH3:1][O:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([C:11]([F:12])([F:13])[F:14])([C:15]([F:16])([F:17])[F:18])[CH2:19][CH2:20][CH2:21][CH2:22]1)[CH:27]([C:25]([NH:24][CH3:23])=[O:26])[N:28]([CH3:29])[C:30]2([C:31]([CH3:32])=[O:33])[C:34]([CH3:35])=[O:36],water,298.15,32.120454558873185,-17.555394850638983
4772,5450,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[O+:18]=[C:19]([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]#[N:17])[O:18][C:19]2([CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,28.15572207313776,-15.772008577997944
1594,1763,[CH3:14][NH:15][C:16](=[O:17])[CH-:18][O+:19]=[C:20]([C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26].[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][CH2:9][CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([CH2:9][CH2:10][CH2:11][CH2:12][CH2:13]1)[CH:18]([C:16]([NH:15][CH3:14])=[O:17])[O:19][C:20]2([C:21]#[N:22])[C:23](=[O:24])[O:25][CH3:26],water,298.15,2.143008045027857,-67.95158205772829
5258,5963,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1)[C:31](=[O:32])[O:33][CH3:34]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:31](=[O:32])[O:33][CH3:34])[O:20][C:21]2([C:22]([CH3:23])=[O:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,16.245930239000295,-26.66379822433314
3248,3671,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][CH:12]=[N+:13]([CH3:14])[N-:15][CH3:16]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:12]([CH3:11])[N:13]([CH3:14])[N:15]2[CH3:16],water,298.15,30.281055636457328,-11.702598099525009
3329,3777,[CH3:10][C:11](=[O:12])[N:13]=[NH+:14][N-:15][C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:15]([C:16]#[N:17])[NH:14][N:13]1[C:11]([CH3:10])=[O:12],water,298.15,28.82972162430942,-3.343258225902632
4125,4720,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[c-:15]1[o+:16][c:17]([C:18]#[N:19])[o:20][c:21]1=[O:22]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]1([C:18]#[N:19])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:21](=[O:22])[O:20]1,water,298.15,13.636353477248884,-23.385583556617213
545,595,[CH3:12][O:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[NH+:19][N-:20][C:21]#[N:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[N:20]([C:21]#[N:22])[NH:19][C:16]2([C:14]([O:13][CH3:12])=[O:15])[C:17]#[N:18],water,298.15,17.717706846626502,-12.796788395647788
1531,1690,[CH3:18][N+:19](=[NH:20])[N-:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][CH:12]([F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([CH:12]([F:13])[CH2:14][CH2:15][CH2:16][CH2:17]1)[N:21]([c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1)[N:19]([CH3:18])[NH:20]2,water,298.15,20.602690358514103,-30.993218399900023
4694,5351,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]#[N+:13][C-:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[N:13]=[C:12]2[CH3:11],water,298.15,13.314361992227752,-37.23582104871535
